US08217069B2
To a mixture of 5-bromo-2-fluoroaniline (4.15 g), methyl 3-mercaptopropionate (2.62 g), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.63 g) and N,N-diisopropylethylamine (5.64 g) in 1,4-dioxane (80 mL) was added tris(dibenzylideneacetone)-dipalladium(0) (0.3 g), and the mixture was heated at reflux under an argon atmosphere overnight. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=20/1−5/1−2/1) to give 2-fluoro-5-(2-methoxy-carbonylethylthio)aniline (4.62 g). This material was dissolved in tetrahydrofuran (120 mL). To the solution was added potassium tert-butoxide (1 mol/L tetrahydrofuran solution, 80.6 mL) at −78° C., and the mixture was stirred at the same temperature for 15 minutes. To the reaction mixture was added 1 mol/L hydrochloric acid (81 mL), and the reaction mixture was allowed to warm to room temperature, and stirred for 5 minutes. The mixture was poured into ethyl acetate, and the organic layer was separated. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1) to give the title compound (1.85 g).

reactant | 5-bromo-2-fluoroaniline | 4.15 g | BrC=1C=CC(=C(N)C1)F | C6H5BrFN
reactant | methyl 3-mercaptopropionate | 2.62 g | SCCC(=O)OC | C4H8O2S
reactant | N,N-diisopropylethylamine | 5.64 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.3 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.63 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 2-fluoro-5-(2-methoxy-carbonylethylthio)aniline | 4.62 g | FC1=C(N)C=C(C=C1)SCC(OC)=C=O | C10H10FNO2S
